US09238639B2
D) Methyl 4-((2-fluoro-3-methoxy-5-methylphenyl)sulfanyl)-3-oxobutanoate
To a mixture of 2-fluoro-3-methoxy-5-methylbenzenethiol (289.4 mg) and DMF (dry) (12 mL) were added K2CO3 (255 mg) and methyl 4-chloro-3-oxobutanoate (0.217 mL) at 0° C. The mixture was stirred at room temperature for 1.5 h. The mixture was diluted with water and extracted with EtOAc. The organic layer was washed successively with water and brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (330 mg).

reactant | 2-fluoro-3-methoxy-5-methylbenzenethiol | 289.4 mg | FC1=C(C=C(C=C1OC)C)S | C8H9FOS
reactant | DMF | 12 mL | CN(C)C=O | C3H7NO
reactant | K2CO3 | 255 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 4-chloro-3-oxobutanoate | 0.217 mL | ClCC(CC(=O)OC)=O | C5H7ClO3
solvent | water | O | H2O
product | Methyl 4-((2-fluoro-3-methoxy-5-methylphenyl)sulfanyl)-3-oxobutanoate | 330 mg | FC1=C(C=C(C=C1OC)C)SCC(CC(=O)OC)=O | C13H15FO4S
